US07842688B2
a) tert-Butyl 3-{3-[acetyl-(3-methoxypropyl)amino]-4-methylbenzyloxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
Analogously to Method D, 0.238 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.147 g of N-(5-chloromethyl-2-methylphenyl)-N-(3-methoxypropyl)acetamide are reacted. The title compound is obtained as a slightly yellowish oil. Rf=0.12 (1:1 EtOAc-heptane); Rt=5.90.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.238 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | N-(5-chloromethyl-2-methylphenyl)-N-(3-methoxypropyl)acetamide | 0.147 g | ClCC=1C=CC(=C(C1)N(C(C)=O)CCCOC)C | C14H20ClNO2
product | tert-Butyl 3-{3-[acetyl-(3-methoxypropyl)amino]-4-methylbenzyloxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | C(C)(=O)N(C=1C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC1C)CCCOC | C41H56N2O8
